US05961960
2-(1-(2-Ethylhexy1)benzimidazol-2-yl)-benzoxazole (Route C)
24.4 g (0.1 mol) of 1-(2-ethylhexyl)-2-methylbenzimidazole (prepared by heating N-2-ethylhexyl-o-phenylenediamine in acetic acid/hydrochloric acid), 10.9 g (0.1 mol) of o-aminophenol and 9.6 g (0.3 mol) of sulfur in 100 ml of pyridine are heated under reflux for 18 hours. After cooling to room temperature, the crude product is precipitated by addition of water. Multiple recrystallization from n-hexane with addition of active charcoal gives 5.7 g (16% of theory) of product, which according to melting point, EPLC and UV determination is identical to the compound obtained in Example 7.

reactant | 1-(2-ethylhexyl)-2-methylbenzimidazole | 0.1 mol, 24.4 g | C(C)C(CN1C(=NC2=C1C=CC=C2)C)CCCC | C16H24N2
reactant | o-aminophenol | 0.1 mol, 10.9 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | sulfur | 0.3 mol, 9.6 g | [S] | S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-(1-(2-Ethylhexy1)benzimidazol-2-yl)-benzoxazole | C(C)C(CN1C(=NC2=C1C=CC=C2)C=2OC1=C(N2)C=CC=C1)CCCC | C22H25N3O
